US04602006
Ethyl 6-trimethylsilylhex-5-ynoate
To a solution of 5.3 gm of 1,1-carbonyldiimidazole in 80 ml of dry tetrahydrofuran under argon, was added a solution of 5.03 gm of 6-trimethylsilyl-5-hexynoic acid in 15 ml of dry tetrahydrofuran. The mixture was stirred for 1 hour. Absolute ethanol (80 ml) and pyridine (1 ml) were then added, and the resulting mixture was stirred at room temperature for 48 hours. The solvent was evaporated and the residual oil was extracted with ether and 1.5% hydrochloric acid. The ethereal layer, which was washed with water and then dried, was evaporated to an oil. This material was purified by distillation, b.p. 70°-75° C. (0.6 mm Hg); IR: 2170, 1735 cm-1.

reactant | 6-trimethylsilyl-5-hexynoic acid | 5.03 gm | C[Si](C#CCCCC(=O)O)(C)C | C9H16O2Si
reactant | ethanol | 80 ml | C(C)O | C2H6O
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Ethyl 6-trimethylsilylhex-5-ynoate | C[Si](C#CCCCC(=O)OCC)(C)C | C11H20O2Si
